US04206217
26 g of 3-(4-chloromethylphenyl)-1,2-benzisothiazole, 6.4 g of sulfur and 300 ml of toluene are heated to 50° C. and 12 g of ethylenediamine are added slowly at this temperature. The reaction mixture is then stirred for 15 hours under reflux and is filtered hot, and the filtrate is cooled to 10°-15° C. 21 g of 3-(4-imidazolin-2-yl-phenyl)-1,2-benzisothiazole, melting at 177° C., are obtained. This corresponds to a yield of 75% of theory.

reactant | 3-(4-chloromethylphenyl)-1,2-benzisothiazole | 26 g | ClCC1=CC=C(C=C1)C1=NSC2=C1C=CC=C2 | C14H10ClNS
reactant | sulfur | 6.4 g | [S] | S
reactant | ethylenediamine | 12 g | C(CN)N | C2H8N2
reactant | toluene | 300 ml | C1(=CC=CC=C1)C | C7H8
product | 3-(4-imidazolin-2-yl-phenyl)-1,2-benzisothiazole | 21 g, yield of 75% | N1C(NC=C1)C1=C(C=CC=C1)C1=NSC2=C1C=CC=C2 | C16H13N3S
